Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Levaquin
 
Attending: ___.
 
Chief Complaint:
Transfer from ___ with severe acute blood loss anemia due 
to bleeding duodenal polyp
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with a recent history of CAD s/p MI and PCI 
with placement of 3 drug eluting stents in the LAD 1 month prior 
to admission presenting to OSH with syncopal episode 3 days 
prior to transfer to ___. Patient was at his third cardiac 
rehab session, and had felt fine after running on the treadmill. 
He sat down and was talking with a nurse when he syncopized. Per 
report, episode lasted for less than one minute. He had no 
prodromal symtpoms, no chest pain, no SOB, no blurry vision, no 
HA, no unilateral weakness, no localizing symptoms. He was not 
post-ictal when he regained consciousness.

His work up at the ___ was notable for Hct drop from 39 on ___ 
to 26 on ___ with melena. An EGD 1 day prior to transfer showed 
a 2cm duodenal polyp with ulcer on the medial side wall. This 
was not able to be bicapped or injected with epi due to its 
mobility. 2 clips were successfully placed and patient was 
transferred to the ICU for monitoring out of concern that he may 
re-bleed as his plavix and aspirin could not be stopped. He is 
transferred here for observation and possible repeat endoscopy. 
He had received a total of 3 units pRBC, 2 the day prior to 
transfer and one the morning of transfer.

Review of systems: 
(+) Per HPI
(-) Denies fever, chills, headache, cough, shortness of breath, 
chest pain, chest pressure, abdominal pain.
 
Past Medical History:
- Hemochromatosis
- s/p MI with PCI DES ___
- h/o nephrolithiasis
- Multinodular thyroid followed since ___
- h/o basal cell carcinoma nasal skin resection
 
Social History:
___
Family History:
No family history of premature HA. Family history of HTN and 
elevated lipids. Mother died of AAA at ___ and father healthy and 
alive now at ___. Brother with prostate cancer and melanoma.
 
Physical Exam:
VSS AF Stable
GEN: NAD
HEENT: EOMI, MMM, - OP Lesions
PUL: CTA B/L
COR: RRR, S1/S2, - MRG
ABD: NT/ND, +BS, - CVAT, - rebound, - guarding, Stool GAUIAC (-) 
on discharge
EXT: - CCE
NEURO: CAOx3, Non-Focal
 
Pertinent Results:
Labs on Admission: 
___ 08:04PM BLOOD WBC-9.7 RBC-3.79* Hgb-11.2* Hct-31.5* 
MCV-83 MCH-29.6 MCHC-35.6* RDW-16.1* Plt ___
___ 08:04PM BLOOD ___ PTT-24.2 ___
___ 08:04PM BLOOD Glucose-84 UreaN-14 Creat-1.0 Na-142 
K-4.2 Cl-106 HCO3-23 AnGap-17
___ 08:04PM BLOOD Calcium-9.5 Phos-3.7 Mg-2.1

Labs on Discharge:

___ 07:55AM BLOOD WBC-10.2 RBC-3.99* Hgb-11.4* Hct-34.0* 
MCV-85 MCH-28.7 MCHC-33.6 RDW-16.4* Plt ___
___ 08:35AM BLOOD ___ PTT-26.3 ___
___ 07:55AM BLOOD Glucose-103* UreaN-10 Creat-1.1 Na-143 
K-4.0 Cl-106 HCO3-27 AnGap-14
___ 07:55AM BLOOD Calcium-9.2 Phos-4.1 Mg-2.___ yo M hx of CAD s/p MI and PCI with placement of 3 DES in LAD 
1 month ago presenting to OSH with syncopal episode 3 days ago 
and found to have bleeding duodenal polyp s/p clipping x2.

1. Acute blood loss anemia due to GI Bleeding due to Duodenal 
polyp: 
Acute blood loss is the etiology of patient's syncopal episode 
upon presentation. The patient was transfused a total 2 units 
pRBCs on presentation.  IV PPI was started, PIVx2 and active 
type and screen were maintained. The patient underwent EGD with 
polyp clipping x2 at OSH. Following the procedure, the patient 
was admitted to ICU and monitored closely for signs of re-bleed 
if polyp becomes necrotic given the continuation of patient's 
aspirin/plavix. Hct was monitored closely and remained stable, 
requiring no further transfusions. The patient remained free of 
symptoms. Diet was advanced as tolerated to regular.  
Antihypertensives and heparin SC were transiently held on 
admission in the setting of potentional GI Bleed and re-started 
upon discharge. Plavix/ASA were continued throughout given 
recent placement of DES.  IV PPI has been switched to PO PPI bid 
prior to discharge.  The patient will follow-up with his PCP and 
___ within 1 week of discharge.

2. Syncope. 
GI Bleeding causing anemia is likely etiology of patient's 
initial syncope.  Patient was ruled out for MI at OSH. He was 
monitored on telemetry throughout this admission and had no 
further syncopal episodes. 

3. CAD Native Vessle, Recent MI s/p PCI Drug Eluting Stents x3. 
Anticoagulation needed to maintain patency of recently placed 
stents per extensive discussion with OSH cardiologist. With 
strong cardiology recommendation to continue aspirin/plavix, we 
continued the patient's anticoagulation and monitored him 
closely throughout this admission.

4. Hemochromatosis. 
Per OSH records, most recent ferritin is 106 from ___. He is homozygous for the 863D gene.

 
Medications on Admission:
- Tylenol ___ PO q4hr prn
- Aspirin 325mg PO Daily
- Plavix 75mg PO Daily
- Fish oil 2000mg PO Daily
- Lisinopril 10mg PO Daily
- Toprol XL 50mg PO Daily
- Nitroglycerin SL prn
- Simvastatin 40mg PO Daily
 
Discharge Medications:
1. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Metoprolol Succinate 25 mg Tablet Sustained Release 24 hr 
Sig: Two (2) Tablet Sustained Release 24 hr PO DAILY (Daily).  
6. Omega-3 Fatty Acids     Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
7. Nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1)  
Sublingual PRN as needed for chest pain.  
8. Omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day.
Disp:*60 Capsule, Delayed Release(E.C.)(s)* Refills:*1*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Gastrointestinal bleeding from a bleeding duodenal 
ulcer

Secondary: Coronary Artery Disease

 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent

 
Discharge Instructions:
You were admitted to the hospital because you collapsed.  You 
were found to have a low red blood cell count and given 3 units 
of red blood cells.  Endoscopy was performed.  Because you were 
on Aspirin and Plavix, you were transferred to ___ Intensive 
Care Unit for close monitoring.  Your red blood cell counts have 
remained stable and you remained free of symptoms.  You are 
being discharged home.

You may continue to eat normal heart healthy diet.

We prescribed you omeprazole 40mg twice a day.  Please makes 
sure to take this medication carefully.

You should continue to take all your other medications as 
prescribed.

You need to follow up with your primary care doctor and GI 
doctor ___ below).

It is critical that you call your GI doctor immediately or 
present to the Emergency Department right away if you develop 
any of the signs or symptoms of GI bleed: dizziness, 
lightheadedness, changes in vision, red, black/tarry stools, or 
any other symptoms that concern you.
 
Followup Instructions:
___